US08350044B2
Preparation of 2,2-dimethyl-3-(methylthio)propanoic acid
Example 75 can be prepared as demonstrated in the literature (reference Musker, W. K.; et al. J. Org. Chem. 1996, 51, 1026-1029). Sodium methanethiolate (1.0 g, 14 mmol, 2.0 equiv) was added to a stirred solution of 3-chloro-2,2-dimethylpropanoic acid (1.0 g, 7.2 mmol, 1.0 equiv) in N,N-dimethylformamide (3.7 mL) at 0° C. The resulting brown suspension was allowed to warm to 23° C. and stirred for 24 h. The reaction mixture was diluted with a saturated solution of sodium bicarbonate (300 mL) and washed with diethyl ether (3×75 mL). The aqueous layer was acidified to pH≈1 with concentrated hydrochloric acid and extracted with diethyl ether (3×75 mL). The combined organic layers were dried (sodium sulfate), gravity filtered, and concentrated to afford a colorless oil (1.2 g, 99% crude yield). 1H NMR (300 MHz, CDCl3) δ 2.76 (s, 2H), 2.16 (s, 3H), 1.30 (s, 6H).

reactant | Sodium methanethiolate | 14 mmol, 1.0 g, 2.0 equiv | C[S-].[Na+]
reactant | 3-chloro-2,2-dimethylpropanoic acid | 7.2 mmol, 1.0 g, 1.0 equiv | ClCC(C(=O)O)(C)C | C5H9ClO2
solvent | N,N-dimethylformamide | 3.7 mL | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | 300 mL | C([O-])(O)=O.[Na+]
product | 2,2-dimethyl-3-(methylthio)propanoic acid | CC(C(=O)O)(CSC)C | C6H12O2S
